US07241785B2
A mixture of methyl [4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetate (1.00 g), methyl 4-hydroxy-5-oxo-5-phenylpentanoate (709 mg), WSC (734 mg), 4-(N,N-dimethylamino)pyridine (77.9 mg) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 6 hrs. The reaction mixture was poured into 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl 4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetoxy-5-oxo-5-phenylpentanoate (1.56 g, yield %) was obtained as a pale-yellow oil from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio).

reactant | methyl [4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetate | 1.00 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CC(=O)OC)C | C18H17NO5
reactant | methyl 4-hydroxy-5-oxo-5-phenylpentanoate | 709 mg | OC(CCC(=O)OC)C(C1=CC=CC=C1)=O | C12H14O4
reactant | WSC | 734 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | 4-(N,N-dimethylamino)pyridine | 77.9 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetoxy-5-oxo-5-phenylpentanoate | 1.56 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CC(=O)OC(CCC(=O)OC)C(C1=CC=CC=C1)=O)C | C29H27NO8
